US06268523B1
To a reaction vial with a TEFLON fluoropolymer magnetic stirring rod, 3 ml containing 0.2 M tert-butyl hydroperoxide and 0.2 M 3,5,5-trimethylhexanoic acid in isooctane was added. The reaction was started by addition of 200 mg of Candida antartica enzyme and about 10 mg of molsieves (3 grains). After twenty-fourand one-half hours, 11.2% conversion to tert-butyl peroxy-3,5,5-trimethylhexanoate was obtained as measured with GC.

reactant | tert-butyl hydroperoxide | 0.2 M | C(C)(C)(C)OO | C4H10O2
reactant | 3,5,5-trimethylhexanoic acid | 0.2 M | CC(CC(=O)O)CC(C)(C)C | C9H18O2
solvent | isooctane | C(C)(C)CC(C)(C)C | C8H18
product | tert-butyl peroxy-3,5,5-trimethylhexanoate | CC(CC(=O)OOC(C)(C)C)CC(C)(C)C | C13H26O3
